US05274103
N,N'-Bis(pentafluorothioacetyl)hydrazine
Hydrazine (0.67 g, 0.02 mole) in methanol (5 ml) was stirred in a dry ice-acetone bath while pentafluorothioacetyl chloride (1.8 g, 0.0088 mole) in ether (3 ml) was added dropwise. After 15 minutes at 0° C., the mixture was poured into water and the insoluble material (0.35 g, mp 271° C. dec) was removed. An additional 0.7 g, mp 270° C. dec was recovered by concentrating the ether solution. Total yield of N,N'-bis(pentafluorothioacetyl)hydrazine is 1.05 g (66%); 1H NMR (acetone-d6): 4.78 (pentuplet); IR (KBr): 3190 (NH), 1635 (C=O), 895°-825 (SF5).

reactant | Hydrazine | 0.02 mole, 0.67 g | NN | H4N2
reactant | pentafluorothioacetyl chloride | 0.0088 mole, 1.8 g | FS(=C(C(F)(F)F)Cl)F | C2ClF5S
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | 3 ml | CCOCC | C4H10O
product | N,N'-Bis(pentafluorothioacetyl)hydrazine | FS(=C(C(F)(F)F)NNC(C(F)(F)F)=S(F)F)F | C4H2F10N2S2
